US07423038B2
N-[4-methyl-3-(8-methyl-2-methylamino-7-oxo-7,8-dihydropteridin-6-yl)-phenyl]-3-trifluoromethyl-benzamide
A Smith vial (2-5 mL) is charged with N-[4-methyl-3-(2-chloro-8-methyl-7-oxo-7,8-dihydropteridin-6-yl)-pheny]-3-trifluoromethyl-benzamide (15 mg, 0.032 mmol), 2M methylamine solution in THF (160 μL, 0.32 mmol), and DMSO (0.5 mL). After purging with Argon, the vial is sealed and irradiated at 100° C. for 45 minutes in a Smith Synthesizer. The resulting solution is subjected to purification by reverse-phase LC-MS to yield the title compound; 1H NMR 400 MHz (DMSO-d6) δ 10.51 (s, 1H), 8.68 (s, 1H), 8.31 (s, 1H), 8.26 (d, J=8.0 Hz, 1H), 8.02 (bs, 1H), 7.96 (d, J=7.2 Hz, 1H), 7.80-7.76 (m, 3H), 7.27 (d, J=8.2 Hz, 1H), 3.56 (s, 3H), 2.94 (s, 3H), 2.19 (s, 3H); MS m/z 469.3 (M+1).

reactant | N-[4-methyl-3-(2-chloro-8-methyl-7-oxo-7,8-dihydropteridin-6-yl)-pheny]-3-trifluoromethyl-benzamide | 0.032 mmol, 15 mg | CC1=C(C=C(C=C1)NC(C1=CC(=CC=C1)C(F)(F)F)=O)C1=NC=2C=NC(=NC2N(C1=O)C)Cl | C22H15ClF3N5O2
reactant | methylamine | 2M | CN | CH5N
reactant | THF | 0.32 mmol, 160 μL | C1CCOC1 | C4H8O
solvent | DMSO | 0.5 mL | CS(=O)C | C2H6OS
product | N-[4-methyl-3-(8-methyl-2-methylamino-7-oxo-7,8-dihydropteridin-6-yl)-phenyl]-3-trifluoromethyl-benzamide | CC1=C(C=C(C=C1)NC(C1=CC(=CC=C1)C(F)(F)F)=O)C1=NC=2C=NC(=NC2N(C1=O)C)NC | C23H19F3N6O2
